US04073900
One gram of trimethylsulfoxonium iodide in 30 ml. of dimethyl sulfoxide is agitated under nitrogen for 30 minutes with 200 mg. of pulverized sodium hydroxide. Then, 1.6 g. of 11β-fluoro-17-hydroxy-1,4,6-pregnatriene-3,20-dione is added to the reaction mixture. After 4.5 hours, the reaction mixture is stirred into acetic ice/water. The precipitate is vacuum-filtered, taken up in methylene chloride, and dried over sodium sulfate. After chromatographing the crude product on silica gel with acetone/hexane, 1.4 g. of 11β-fluoro-17-hydroxy-1α,2α -methylene-4,6-pregnadiene-3,20-dione is obtained. UV: ε282 = 16,900.

reactant | trimethylsulfoxonium iodide | One gram | [I-].C[S+](=O)(C)C
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 11β-fluoro-17-hydroxy-1,4,6-pregnatriene-3,20-dione | F[C@@H]1[C@@H]2[C@]3(C=CC(C=C3C=C[C@H]2[C@@H]2CC[C@](C(C)=O)([C@]2(C1)C)O)=O)C | C21H25FO3
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | 11β-fluoro-17-hydroxy-1α,2α -methylene-4,6-pregnadiene-3,20-dione | F[C@@H]1[C@@H]2[C@]3([C@@H]4[C@H](C(C=C3C=C[C@H]2[C@@H]2CC[C@](C(C)=O)([C@]2(C1)C)O)=O)C4)C | C22H27FO3
